US05856274
A solution of sodium nitrite (12.0 g) in water was added to a stirred suspension of 2,6-dichloro-3-methylaniline (30.0 g) in a mixture of glacial acetic acid and concentrated hydrochloric acid. While maintaining the temperature below 10° C. The mixture was stirred at 0° C. for three quarters of an hour then added to a mixture of dimethyl disulphide (20 ml) and copper powder (0.25 g) in glacial acetic acid. The mixture was stirred for 4 hours and extracted with ether. The organic layer was washed with aqueous sodium carbonate (2M), water, dried (Na2SO4) and filtered. The filtrate was evaporated to dryness to give 2,4-dichloro-3-(methylsulphenyl)toluene (27.2 g) as a red liquid NMR (CDCl3) 2.4(s,3H), 2.45(s,3H), 7.15(d,1H), 7.3(d,1H).

reactant | sodium nitrite | 12.0 g | N(=O)[O-].[Na+]
reactant | 2,6-dichloro-3-methylaniline | 30.0 g | ClC1=C(N)C(=CC=C1C)Cl | C7H7Cl2N
reactant | hydrochloric acid | Cl | ClH
reactant | dimethyl disulphide | 20 ml | CSSC | C2H6S2
solvent | water | O | H2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
catalyst | copper | 0.25 g | [Cu] | Cu
product | 2,4-dichloro-3-(methylsulphenyl)toluene | 27.2 g | ClC1=C(C=CC(=C1SC)Cl)C | C8H8Cl2S
